US04716238
Preparation of 7-methoxymethoxy-2,2-dimethyl-2H-chromene
7.7 g (50 millimoles) of 3-methoxymethoxy-phenol and 110 g of 50% sulfuric acid are dissolved in 150 g of chloroform, whereupon 6.8 g of isoprene are added at 60° C. within 20 minutes. The reaction mixture is allowed to stated at 60° C. for 3 hours, separated, the organic phase is evaporated and the residue is heated to boiling in the presence of 2.5 g of dichloro-dicyano-benzoquinone in 100 ml of dioxane for 10 hours. Then one proceeds as described in Example 8. Thus 7.6 g of the desired compound are obtained in the form of a light yellow oil, yield 69%.

reactant | 3-methoxymethoxy-phenol | 50 millimoles, 7.7 g | COCOC=1C=C(C=CC1)O | C8H10O3
reactant | sulfuric acid | 110 g | S(O)(O)(=O)=O | H2O4S
reactant | isoprene | 6.8 g | C=CC(C)=C | C5H8
solvent | chloroform | 150 g | C(Cl)(Cl)Cl | CHCl3
product | 7-methoxymethoxy-2,2-dimethyl-2H-chromene | 7.6 g, yield 69% | COCOC1=CC=C2C=CC(OC2=C1)(C)C | C13H16O3
